US04223035
The starting material may be produced as follows: (a) A solution of 10.0 g of 2-acetylthiophene and 21.0 g of diethyl-o-cyanobenzylphosphonate in 70 cc of anhydrous dimethyl formamide is added dropwise at 20°-30° in an atmosphere of nitrogen to a suspension of 4.5 g of pulverized sodium methylate in 100 cc of anhydrous dimethyl formamide, the reaction mixture is stirred at 40° for 2 hours, and at 100° for a further 2 hours, is cooled to room temperature and diluted with 600 cc of ice water. The condensation product is extracted with ether, the extract is washed with water until neutral, is dried over potassium carbonate and concentrated by evaporation. The evaporation residue is chromatographed through 110 g of silica gel with a mixture of benzene/petroleum ether (1:4). The 2-[2-(2-thienyl)-1-propenyl]benzonitrile (nD20 =1.6460, B.P. 165°-175°/0.1 mm Hg), isolated as main fraction, is used for the next reaction without further purification.

reactant | 2-acetylthiophene | 10.0 g | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | diethyl-o-cyanobenzylphosphonate | 21.0 g | C(C)C(C1=C(C=CC=C1)C#N)(P([O-])([O-])=O)CC
reactant | sodium methylate | 4.5 g | C[O-].[Na+]
solvent | dimethyl formamide | 70 cc | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 100 cc | CN(C=O)C | C3H7NO
product | 2-[2-(2-thienyl)-1-propenyl]benzonitrile | S1C(=CC=C1)C(=CC1=C(C#N)C=CC=C1)C | C14H11NS
